US05744512
4-Allyloxyphenyl 2-hydroxy-2-propyl ketone (IIh)
6.6 g (0.22 mol) of sodium hydride (80% strength in paraffin oil) are addedin portions to 36.0 g (0.2 mol) of 4-hydroxyphenyl 2-hydroxy-2-propyl ketone in 450 ml of dimethyl sulfoxide under an inert gas and the mixture is stirred for 15 minutes at room temperature. 26.8 g (0.22 mol) of allyl bromide in 40 ml of dimethyl sulfoxide are then added dropwise at 30°-40° C., and the mixture is stirred for 15 minutes. The reaction mixture is poured into 2 l of water and then extracted with methyl t-butyl ether. By removing the solvent, 41.5 g of compound IIh are obtained.

reactant | sodium hydride | 0.22 mol, 6.6 g | [H-].[Na+]
reactant | 4-hydroxyphenyl 2-hydroxy-2-propyl ketone | 0.2 mol, 36.0 g | OC(C)(C)C(=O)C1=CC=C(C=C1)O | C10H12O3
reactant | allyl bromide | 0.22 mol, 26.8 g | C(C=C)Br | C3H5Br
reactant | water | 2 l | O | H2O
solvent | dimethyl sulfoxide | 450 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 40 ml | CS(=O)C | C2H6OS
product | 4-Allyloxyphenyl 2-hydroxy-2-propyl ketone | OC(C)(C)C(=O)C1=CC=C(C=C1)OCC=C | C13H16O3
